US05093328
To a solution of (2R,4R)-1-p-nitrobenzyloxycarbonyl-2-(2-carboxyethyl)-4-hydroxypyrrolidine (57.73 g) in dry tetrahydrofuran (500 ml), triethylamine (29.27 ml) was added, and ethyl chloroformate (18.74 ml) was further added thereto at -20° to -25° C. under nitrogen stream. The resulting mixture was stirred at the same temperature for 15 minutes and 30% (w/w) ethanolic solution of methylamine (57.5 g) was added thereto, followed by stirring at the same temperature for 1 hour. The solvent was removed, and the residue was combined with water and ether. The precipitated crystals were collected by filtration to give (2R,4R)-1-p-nitrobenzyloxycarbonyl-2-(2-methylaminocarbonylethyl)-4-hydroxypyrrolidine.

reactant | (2R,4R)-1-p-nitrobenzyloxycarbonyl-2-(2-carboxyethyl)-4-hydroxypyrrolidine | 57.73 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)O)CCC(=O)O)C=C1 | C15H18N2O7
reactant | ethyl chloroformate | 18.74 ml | ClC(=O)OCC | C3H5ClO2
reactant | methylamine | 57.5 g | CN | CH5N
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 29.27 ml | C(C)N(CC)CC | C6H15N
product | (2R,4R)-1-p-nitrobenzyloxycarbonyl-2-(2-methylaminocarbonylethyl)-4-hydroxypyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)O)CCC(=O)NC)C=C1 | C16H21N3O6
